Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysuria, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o DMII, HFrEF (35-40%), atrial fibrillation, who presents 
with 4 days of dysuria. Also reports right lower quadrant pain, 
urinary urgency. She saw her PCP, who documented a fever of 
101.3, with positive urinalysis. The patient was referred with 
concern for pyelonephritis. She denies chest pain, shortness of 
breath, diarrhea, leg swelling, cough, skin rashes, confusion. 

Exam: Right CVA tenderness, mild right-sided abdominal 
tenderness

In ED initial VS:  98.9 ___ 19 100% RA. In ED, temp rose 
to a high of 105, down to 99.5 at time of transfer. HRs 
increased to a max of 130 before sustaining in 110s. Downtrended 
to ___ at time of transfer. RR and sats remained stable.  

Labs significant for:  WBC 11.7, lactate 1.9 to 2.8, Cr 1.0, UA 
w/ many RBC, WBC, and bacteria. 

Patient was given: IV CTX, IVF 1L NS, ASA 81, labetalol 300mg, 
IV ketorolac 15mg, carvedilol 50mg, rivaroxaban 20mg, 
atorvastatin 40mg, amlodipine 10mg, irbesartan 300mg, and SC 
insulin. Started on LR 100/hr. 

Imaging notable for:  CXR w mild-to-moderate cardiomegaly with 
mild pulmonary vascular congestion. Left basilar streaky 
opacity, likely atelectasis. 

On arrival to the MICU, pt falling asleep during exam, but would 
awaken upon command and provide appropriate answers. Confirmed 
above history. Asymptomatic upon arrival.

REVIEW OF SYSTEMS: as per HPI, otherwise negative
 
Past Medical History:
AF on rivaroxaban, HTN, HLD, DM II
CAD no interventions
HFrEF, though EF 35-40% on ___ echo
primary hyperaldosteronism - diagnosed ___
thymic mass s/p thymectomy ___
hyperparathyroidism s/p three gland parathyroidectomy ___

 
Social History:
___
Family History:
Pancreas and liver cancer.
Mother: colon cancer
Father: CHF  

 
Physical ___:
DISCHARGE EXAM:
 VS: ___ 1130 Temp: 97.6 PO BP: 144/79 L Sitting HR: 76 RR:
18 O2 sat: 99% O2 delivery: Ra FSBG: 233 
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
 NECK: nontender supple neck, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS
===============
___ 12:14PM BLOOD WBC-11.7*# RBC-5.15 Hgb-13.9 Hct-43.7 
MCV-85 MCH-27.0 MCHC-31.8* RDW-13.2 RDWSD-41.0 Plt ___
___ 12:14PM BLOOD Neuts-83.1* Lymphs-8.4* Monos-7.6 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-9.73*# AbsLymp-0.98* 
AbsMono-0.89* AbsEos-0.03* AbsBaso-0.03
___:14PM BLOOD Glucose-155* UreaN-12 Creat-1.0 Na-144 
K-3.6 Cl-99 HCO3-29 AnGap-16
___ 12:14PM BLOOD ALT-16 AST-15 AlkPhos-118* TotBili-0.5
___ 03:06AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.1
___ 12:14PM BLOOD Albumin-4.4
___ 03:23AM BLOOD ___ pO2-42* pCO2-46* pH-7.41 
calTCO2-30 Base XS-3
___ 12:25PM BLOOD Lactate-1.9

MICROBIOLOGY
=============
___ 12:14pm URINE CULTURE: ESCHERICHIA COLI. >100,000 
CFU/mL.   SENSITIVITIES: MIC expressed in MCG/ML                 
            |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING
=======
CXR (___): Mild-to-moderate cardiomegaly with mild pulmonary 
vascular congestion.  Left basilar streaky opacity, likely 
atelectasis. 

RENAL US (___): No hydronephrosis or evidence of abscess.  
Multiple simple bilateral renal cysts.  9 mm posterior bladder 
wall urothelial lesion.  Cystoscopy is recommended to 
characterize further. 
 
DISCHARGE LABS
==============
___ 06:10AM BLOOD WBC-9.2 RBC-4.47 Hgb-11.9 Hct-39.0 MCV-87 
MCH-26.6 MCHC-30.5* RDW-13.6 RDWSD-43.3 Plt ___
___ 06:10AM BLOOD ___ PTT-37.6* ___
___ 06:35AM BLOOD Glucose-133* UreaN-9 Creat-0.8 Na-148* 
K-4.2 Cl-107 HCO3-28 AnGap-13
___ 12:14PM BLOOD ALT-16 AST-15 AlkPhos-118* TotBili-0.5
___ 06:35AM BLOOD Calcium-9.1 Phos-2.9 Mg-2.___ h/o DMII, HFrEF (35-40%), atrial fibrillation who presents 
with urinary symptoms and high grade fever c/f pyelonephritis.

# Pyelonephritis with sepsis: Patient presented with several 
days of urinary sx's, UA w/ many WBCs, bacteria, and RBCs, CVA 
tenderness on exam, and febrile all consistent with 
pyelonephritis. No other localizing symptoms to suggest other 
source for infection. She has had ___ UTIs in past, grown 
ampicillin-sensitive enterococcus, klebsiella, and E.coli, but 
nothing that was multi-drug resistant. Renal ultrasound obtained 
was negative for hydronephrosis or abscess. She received a dose 
of IV Ceftriaxone in the ED then started on vancomycin and 
cefepime for empiric coverage in the ICU.  She was transitioned 
to PO Ciprofloxacin as Urine culture grew Pan-sensitive E coli 
with plans to complete a 10 day course through ___.

# Atrial Fibrillation: EKGs all demonstrated sinus rhythm, 
however she has a hx of AF and her heart rates were as high as 
130 in the ED. Her heart rates improved with IVF. Home Coreg and 
rivaroxaban continued.

# Hypertension, Mild hypernatremia, Hypokalemia, primary 
hyperaldosteronism: Patient was started on spironolactone for 
hyperaldosteronism that was recently discontinued in ___ for 
hyperkalemia.  Since that time her blood pressure and 
electrolytes were controlled on torsemide, carvediolol, 
amlodipine, and irbesartan. On admission her some of her 
antihypertensives including torsemide were held as a precaution 
in the setting of infection/sepsis.  These were resumed with 
recovery of blood pressure.  Sodium was noted to be 148 two days 
in a row after sepsis physiology had resolved despite good PO 
intake. The patient described polyuria and polydipsia but 
appeared euvolemic on exam and felt that hypernatremia was most 
likely due to hyperaldosteronism. She was restarted on low dose 
spironolactone with plan for close outpatient monitoring for 
development of hyperkalemia. 

# DMII: Home 70/30 regimen was continued and Victoza resumed at 
discharge. 

TRANSITIONAL ISSUES
===================
[] Renal US showed 9 mm posterior bladder wall urothelial 
lesion. Please refer to urology for cystoscopy to characterize 
further.
[] Please repeat chem7 within this week to be followed by and 
likely repeated when she sees PCP. Na 148 on discharge with Cr 
0.8.
[] Please evaluate volume status and increase Torsemide as 
needed at next clinic visit.
[] Antibiotic Course: Ciprofloxacin 500 mg q12h x 10 day course 
(last day ___.
[] Consider referral to endocrinology for management of probable 
hyperaldosteronism

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carvedilol 50 mg PO BID 
5. Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous QAM 
6. 70/30 31 Units Breakfast 70/30 41 Units Bedtime
7. irbesartan 300 mg oral QHS 
8. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
9. Rivaroxaban 20 mg PO DAILY 
10. Torsemide 40 mg PO BID 
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H RX *ciprofloxacin HCl 500 
mg 1 tablet(s) by mouth every twelve (12) hours Disp #*10 Tablet 
Refills:*0 
2.  Spironolactone 12.5 mg PO DAILY RX *spironolactone 25 mg 0.5 
(One half) tablet(s) by mouth daily Disp #*15 Tablet Refills:*0 
3.  70/30 31 Units Breakfast 70/30 41 Units Dinner 
4.  Torsemide 40 mg PO DAILY  
5.  amLODIPine 10 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Carvedilol 50 mg PO BID  
9.  irbesartan 300 mg oral QHS  
10.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
11.  Rivaroxaban 20 mg PO DAILY  
12.  Victoza 2-Pak (liraglutide) 0.6 mg/0.1 mL (18 mg/3 mL) 
subcutaneous QAM  
13.Outpatient Lab Work I50.32 Basic metabolic panel
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Pyelonephritis
Hypernatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking care of you at ___.

Why was I here?
- You were admitted due to a UTI which infected your kidney 
(pyelonephritis).

What was done for me here?
- You were monitored closely in the ICU.
- You were given IV fluids and IV antibiotics.
- You had an ultrasound which showed normal kidneys.

What should I do when I go home?
- You should take 40 mg Torsemide once daily, 12.5 mg 
spironolactone daily.
- You should continue to take all of your medications as 
prescribed.
- You should weigh yourself every morning, call MD if weight 
goes up more than 3 lbs.
- You need to see the urologist to discuss the lesion seen in 
your bladder.
- You need to see your PCP to discuss treatment for your high 
sodium.

Sincerely,
Your ___ Team
 
Followup Instructions:
___